US07148226B2
2-(4-Bromo-2-fluoro-phenyl)-benzo[b]thiophene
A mixture of Benzo[b]thiophene-2-boronic acid (0.71 g, 4 mmol), 1-bromo-3-fluoro-4-iodobenzene (1 g, 3.3 mmol), bis(triphenylphospine)palladium(II) chloride (46 mg, 2 mol %), NaHCO3 (0.83 g, 9.9 mmol) in DME (4 mL) and H2O (4 mL) was heated to 80° C. under N2 for 72 h. The reaction mixture was partitioned between 1N HCl and EtOAc. The organic layer was washed with saturated NaHCO3, brine, dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography (hexanes) to give the title compound as a white solid (0.13 g, 13%).

reactant | Benzo[b]thiophene-2-boronic acid | 4 mmol, 0.71 g | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | 1-bromo-3-fluoro-4-iodobenzene | 3.3 mmol, 1 g | BrC1=CC(=C(C=C1)I)F | C6H3BrFI
reactant | NaHCO3 | 9.9 mmol, 0.83 g | C(=O)(O)[O-].[Na+]
solvent | DME | 4 mL | COCCOC | C4H10O2
solvent | H2O | 4 mL | O | H2O
catalyst | bis(triphenylphospine)palladium(II) chloride | 46 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(4-Bromo-2-fluoro-phenyl)-benzo[b]thiophene | 0.13 g, 13% | BrC1=CC(=C(C=C1)C1=CC2=C(S1)C=CC=C2)F | C14H8BrFS
